US04042621
By essentially the procedure of Example 1, a tube was charged with 40 g of methyldioctylamine and 1.0 g of CuCl2. 2H2O. The reaction was run at 109°-120° C. for 25 min while oxygen (0.2 mole) was injected incrementally at 160-275 psi. GC/MS analysis showed a 72.0% conversion of methyldioctylamine and a 4.5% yield of dioctylformamide.

reactant | methyldioctylamine | 40 g | CN(CCCCCCCC)CCCCCCCC | C17H37N
reactant | oxygen | 0.2 mole | O=O | O2
product | dioctylformamide | 4.5% yield | C(CCCCCCC)N(C=O)CCCCCCCC | C17H35NO
